datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[O:38]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14].[H:12][O:38],23.028736
[C:0](=[C:1]([O:2][O:3][C:4]([H:14])([H:15])[H:16])[C:5](=[C:6]([H:17])[H:18])[C:7](=[C:8]([H:19])[H:20])[C:9]([C:10]([H:21])([H:22])[H:23])[C:11]([H:24])([H:25])[H:26])([H:12])[H:13]>>[C:0](=[C:1]1[O:2][C:9]([C:10]([H:21])([H:22])[H:23])([C:11]([H:24])([H:25])[H:26])[C:7](=[C:8]([H:19])[H:20])[C:5]1=[C:6]([H:17])[H:18])([H:12])[H:13].[O:3][C:4]([H:14])([H:15])[H:16],48.116
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8]([S:9][H:19])[c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:8]([C:7]([H:16])([H:17])[H:18])([S:9][H:19])[c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24],44.7688
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17]([c:18]1[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]1[H:30])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[C:17]([c:18]1[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]1[H:30])([H:24])[H:25])[H:7],46.7771
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([H:14])([H:15])[H:16])([O:5][O:6][H:17])[H:13])([H:7])([H:8])[H:9]>>[C:0]([C:1]1([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([H:14])([H:15])[H:16])([H:13])[O:5]1)([H:7])([H:8])[H:9].[O:6][H:17],37.2376
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26]([C:27]([H:30])([H:31])[H:32])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([H:18])([H:19])[H:20])([c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:26]([C:27]([H:30])([H:31])[H:32])([H:28])[H:29])[H:14])([H:12])[H:13],23.5978
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]=[C:14]([C:15](=[C:16]([H:21])[H:22])[H:20])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13]=[C:12]([H:17])[H:18])([C:15](=[C:16]([H:21])[H:22])[H:20])[H:19])[H:5],42.6768
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6])([H:10])[H:11])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6][H:26])([H:10])[H:11])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[H:28])[H:27])([H:23])([H:24])[H:25],74.0568
[C:0](#[C:1][C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:13])([H:14])[H:15])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[H:19]>>[C:0](#[C:1][C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7](=[C:8]([H:17])[H:18])[H:16])[H:19])[H:9],3.59824
[C:0]([c:1]1[c:2]([H:9])[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]1[H:13])([H:7])[H:8].[I:14]>>[C:0]([c:1]1[c:2]([H:9])[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]1[H:13])([H:7])([H:8])[I:14],0.0
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16](=[C:17]([C:18]([H:29])([H:30])[H:31])[c:19]1[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]([H:35])[c:24]1[H:36])[H:28])([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[C:16]([C:15]([H:25])([H:26])[H:27])([C:17]([C:18]([H:29])([H:30])[H:31])[c:19]1[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]([H:35])[c:24]1[H:36])[H:28])[H:8])([H:6])[H:7],67.99
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17].[C:29](=[C:30]([H:32])[H:33])[H:31]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])([H:18])[C:29](=[C:30]([H:32])[H:33])[H:31])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17],13.3888
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14])([H:4])[H:5],54.4757
